US04225534
10.9 parts of 2,3-dichloro-6-nitrobenzonitrile, 0.84 parts of lithium chloride, 2.22 parts of anhydrous aluminum chloride and 15 parts of N-methyl-2-pyrrolidone were reacted at 180° C. for one hour, and the reaction solution was treated similarly to EXAMPLE B12 to obtain 9.4 parts of 2,3,6-trichlorobenzonitrile with purity of almost 100%. Yield: 91.9%.

reactant | 2,3-dichloro-6-nitrobenzonitrile | ClC1=C(C#N)C(=CC=C1Cl)[N+](=O)[O-] | C7H2Cl2N2O2
reactant | lithium chloride | [Cl-].[Li+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | N-methyl-2-pyrrolidone | CN1C(CCC1)=O | C5H9NO
product | 2,3,6-trichlorobenzonitrile | Yield: 91.9% | ClC1=C(C#N)C(=CC=C1Cl)Cl | C7H2Cl3N
